US04021479
4-(2'-Fluoro-4-biphenylyl)-4-hydroxy-butyric acid by method C
45.9 gm (0.169 mol) of 4-(2'-fluoro-4-biphenylyl)-4-oxo-butyric acid were dissolved in a solution of 11.2 gm of potassium hydroxide in 450 ml of water at 35° C. While stirring, a solution of 6.4 gm (0.169 mol) of sodium borohydride in water was added. After stirring for about 3 hours, the mixture was acidified and extracted with ethyl acetate. From the washed and dried organic phase, the cyclohexylamine salt was precipitated by addition of cyclohexylamine. Yield: 41 gm (65% of theory); m.p. 174°-175° C.; melting point of the free acid: 120°-122° C. (from benzene); melting point of the isobutylamine salt: 125°-127° C. (from isopropanol); melting point of the morpholine salt: 108°-110° C. (from isopropanol); melting point of the sodium salt: 222°-224° C. (from ethanol).

reactant | 4-(2'-fluoro-4-biphenylyl)-4-oxo-butyric acid | 0.169 mol, 45.9 gm | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13FO3
reactant | sodium borohydride | 0.169 mol, 6.4 gm | [BH4-].[Na+]
solvent | potassium hydroxide | 11.2 gm | [OH-].[K+]
solvent | water | 450 ml | O | H2O
product | 4-(2'-Fluoro-4-biphenylyl)-4-hydroxy-butyric acid | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H15FO3
